US04588749
N-(2-(4-Ethylphenyl)-1-methylethyl)-2-hydroxy-2-phenylethanamine
The title compound was prepared in the manner described in Example 3 using 2-hydroxy-2-phenylethanamine and 4-ethylphenyl acetone. Recrystallization of the chromatographed material from hexane gave the title compound m.p. 76-82 as a 19:81 mixture of diastereoisomers (analysed as the hemi-hydrate). τ(CDCl3), 8.9 (3H, d, J=6 Hz), 8.8 (3H, t, J=6 Hz), 7.5 (2H, disappears with D2O), 7.0-7.5 (7H, m), 5.35 (1H, dd), 2.9 (4H, s), 2.7 (5H, s).

reactant | 2-hydroxy-2-phenylethanamine | OC(CN)C1=CC=CC=C1 | C8H11NO
reactant | 4-ethylphenyl acetone | C(C)C1=CC=C(C=C1)CC(C)=O | C11H14O
product | N-(2-(4-Ethylphenyl)-1-methylethyl)-2-hydroxy-2-phenylethanamine | C(C)C1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)O | C19H25NO
